US06900337B2
Preparation of 5-Methyl-1-Octyl-2-Pyrrolidone (OcMP)
The feedstock used in examples 39 through 77, except for example 40, was 20% of the ammonium salt of levulinic acid, 40% octylamine, and 40% water, by weight. For the reaction in example 40, the weight ratio of the feedstock was 30% of the ammonium salt of levulinic acid, 30% octylamine, and 40% water. The temperature and pressure of the reactions were maintained at 150° C. and 6.9 MPa. Water was used as the solvent medium for the reactions. The results are set forth in the following table.

reactant | levulinic acid | C(CCC(=O)C)(=O)O | C5H8O3
reactant | octylamine | C(CCCCCCC)N | C8H19N
solvent | Water | O | H2O
product | 5-Methyl-1-Octyl-2-Pyrrolidone | CC1CCC(N1CCCCCCCC)=O | C13H25NO
